US08809377B2
1-(4-(2-Methoxyethoxy)phenyl)propan-1-one oxime (14)
Hydroxylamine hydrochloride (2.27 g, 32.7 mmol) was added to a stirred solution of 1-(4-(2-methoxyethoxy)phenyl)propan-1-one (3.4 g, 16.3 mmol) and pyridine (3.87 g, 49.0 mmol) in ethanol (25 mL) and the mixture heated at reflux for 4 hours then allowed to cool. Most of the ethanol was removed by concentration, and the residue was partitioned between water and dichloromethane. The layers were separated and the aqueous phase extracted 2× with dichloromethane. The combined extracts were washed twice with water, then with sat brine and dried over magnesium sulfate. The solvent was removed by concentration, and then the residue was dissolved in toluene and again concentrated; this process was repeated once more, and the residue was dried under in vacuo to afford 3.52 g of the product as a cream-colored crystalline solid; mp 74-80° C.; mass spec ES+m/z=224 (m+1).

reactant | Hydroxylamine hydrochloride | 32.7 mmol, 2.27 g | Cl.NO
reactant | 1-(4-(2-methoxyethoxy)phenyl)propan-1-one | 16.3 mmol, 3.4 g | COCCOC1=CC=C(C=C1)C(CC)=O | C12H16O3
reactant | pyridine | 49.0 mmol, 3.87 g | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 1-(4-(2-Methoxyethoxy)phenyl)propan-1-one oxime | 3.52 g | COCCOC1=CC=C(C=C1)C(CC)=NO | C12H17NO3
